US06743924B2
1,2,3-Triazole (1634 mg, 23.7 mmol), sodium iodide (2364 mg, 15.8 mmol), sodium hydroxide (946 mg, 23.7 mmol) were added to t-amyl alcohol (6.2 ml), and the mixture was refluxed under stirring for 1 hour. 1-Chloro-2-phenylethane (2217 mg, 15.8 mmol) was dissolved in t-amyl alcohol (6.2 ml) and added dropwise under reflux over 1 hour. The mixture was refluxed under stirring for 3.5 hours. The mixture was cooled to room temperature and toluene (50 ml) was added. The mixture was washed with water (50×2), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1→1/3) to give 1-(2-phenylethyl)-1H-1,2,3-triazole as a colorless oil (2.0 g, yield 73%). 2-(2-Phenylethyl)-2H-1,2,3-triazole (315 mg) was obtained as a colorless oil (yield 12%). 1-(4-phenylethyl)-1H-1,2,3-triazole

reactant | 1,2,3-Triazole | 23.7 mmol, 1634 mg | N1N=NC=C1 | C2H3N3
reactant | sodium iodide | 15.8 mmol, 2364 mg | [I-].[Na+]
reactant | sodium hydroxide | 23.7 mmol, 946 mg | [OH-].[Na+]
reactant | 1-Chloro-2-phenylethane | 15.8 mmol, 2217 mg | ClCCC1=CC=CC=C1 | C8H9Cl
solvent | t-amyl alcohol | 6.2 ml | C(C)(C)(CC)O | C5H12O
solvent | t-amyl alcohol | 6.2 ml | C(C)(C)(CC)O | C5H12O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-phenylethyl)-1H-1,2,3-triazole | 2.0 g, yield 73% | C1(=CC=CC=C1)CCN1N=NC=C1 | C10H11N3
